US06162835
A process for the preparation of solid active-ingredient concentrates, which comprises preparing a spray solution from sodium cumenesulphonate, methylhydroxyethylcellulose and water which is sprayed onto a mixture of magnesium perphthalate powder and sodium alkylbenzoate powder in a fluidized-bed drier at an air intake temperature of from about 60 to 80° C., and coating the granules formed with a melt of isotridecanol ethoxylate.

reactant | sodium cumenesulphonate | C=1(C(=CC=CC1)S(=O)(=O)[O-])C(C)C.[Na+]
reactant | magnesium | [Mg] | Mg
reactant | water | O | H2O
product | isotridecanol | C(CCCCCCCCCC(C)C)O | C13H28O
